US08012974B2
2-Bromo-6-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine (0.340 g, 0.993 mmol), benzhydrylideneamine (0.18 mL, 1.09 mmol), Cs2CO3 (648 mg, 1.99 mmol), Pd(OAc)2 (22 mg, 0.099 mmol) and BINAP (62 mg, 0.099 mmol) were dissolved in THF (10 mL) and heated at 100° C. for 64 hr, cooled to RT, partitioned between EtOAc and brine. The organic layer was dried (MgSO4), filtered, concentrated, and purified by SiO2 chromatography (40 g SiO2, hexanes/EtOAc 0-35% EtOAc) to give 158 mg of benzhydrylidene-[6-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-amine as a yellow liquid (36% yield).

reactant | 2-Bromo-6-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine | 0.993 mmol, 0.340 g | BrC=1N=C2C(=NC1)N(C(=C2)C)COCC[Si](C)(C)C | C13H20BrN3OSi
reactant | benzhydrylideneamine | 1.09 mmol, 0.18 mL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | Cs2CO3 | 1.99 mmol, 648 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | BINAP | 0.099 mmol, 62 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | Pd(OAc)2 | 0.099 mmol, 22 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | benzhydrylidene-[6-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-amine | 158 mg, 36% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC=1N=C2C(=NC1)N(C(=C2)C)COCC[Si](C)(C)C | C26H30N4OSi
